US05026856
1.5 g of 10% palladium on carbon was added to a solution of 8.5 g of 2-benzyl-4-methoxyisoindoline in 100 ml of methanol and hydrogenation was performed at 45° C. for 7 days. After removing the catalyst by filtration, the filtrate was concentrated and purified by vacuum distillation (bath temperature: 160°-180 ° C., pressure: 0.1 mmHg) to obtain 3.44 g of 4-methoxyisoindoline.

reactant | 2-benzyl-4-methoxyisoindoline | 8.5 g | C(C1=CC=CC=C1)N1CC2=CC=CC(=C2C1)OC | C16H17NO
catalyst | palladium on carbon | 1.5 g | [Pd] | Pd
solvent | methanol | 100 ml | CO | CH4O
product | 4-methoxyisoindoline | 3.44 g | COC1=C2CNCC2=CC=C1 | C9H11NO
